### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/PosDef): `vecMulVec a (star a)` is positive semi-definite

### PR DESCRIPTION
**Pull request by themathqueen**
The matrices `vecMulVec a (star a)` and `vecMulVec (star a) a` are always positive semi-definite.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — COMMENTED** [review]
Is there a `PosDef` version of this too?

**Comment by themathqueen** [comment]
> Is there a `PosDef` version of this too?

Ye sure. It would need `(replicateRow Unit a).mulVec` (and `replicateCol` with `vecMul` respectively) to be injective I think.

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -558,6 +566,24 @@ theorem conjTranspose_mul_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
...
   simpa using conjTranspose_mul_mul_same .one hA
 
+theorem mul_conjTranspose_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matrix m n R)
+    (hA : Function.Injective A.vecMul) :
+    PosDef (A * Aᴴ) := by
+  classical
+  simpa using mul_mul_conjTranspose_same .one hA
+
+theorem _root_.Matrix.posDef_vecMulVec_star [StarOrderedRing R] [NoZeroDivisors R] (a : n → R)
+    (ha : Function.Injective (replicateCol Unit a).vecMul) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: This is better stated as `Function.Injective (dotProduct · a)`, which also makes it clearer that this is ~~impossible~~ _mostly useful only_ when `n` is not subsingleton!

Is there a more interesting statement that says for nontrivial `n`, this can _never_ be PosDef?~~

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 2]
```diff
@@ -558,6 +566,24 @@ theorem conjTranspose_mul_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
...
+    (vecMulVec a (star a)).PosDef := by
+  simp only [vecMulVec_eq Unit, ← conjTranspose_replicateCol]
+  exact mul_conjTranspose_self _ ha
+
+theorem _root_.Matrix.posDef_star_vecMulVec [StarOrderedRing R] [NoZeroDivisors R] (a : n → R)
+    (ha : Function.Injective (replicateRow Unit a).mulVec) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]:
```suggestion
    (ha : Function.Injective (dotProduct a)) :
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I'll need to think about it 🤔

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: If `R` is commutative, then yeah:
```lean
import Mathlib

variable {R n : Type*} [CommRing R] [Fintype n] [Nontrivial n] [Nontrivial R]

/-- For any vector `a` in a commutative nontrivial ring with nontrivial index,
there exists a non-zero vector `b` such that `b ⬝ᵥ a = 0`. -/
theorem exists_ne_zero_dotProduct_eq_zero (a : n → R) : ∃ b ≠ 0, b ⬝ᵥ a = 0 := by
  obtain ⟨i, j, hij⟩ : ∃ i j : n, i ≠ j := nontrivial_iff.mp ‹_›
  classical
  use if a i = 0 then Pi.single i 1 else if a j = 0 then Pi.single j 1 else
    fun k => if k = i then a j else if k = j then - a i else 0
  split_ifs with h h2
  · simp [h]
  · simp [h2]
  · refine ⟨Function.ne_iff.mpr ⟨i, by simp [h2]⟩, ?_⟩
    simp [dotProduct, Finset.sum_ite, Finset.sum_eq_ite i, hij.symm, mul_comm (a i)]

/-- In a commutative nontrivial star ring with nontrivial index, the matrices
`vecMulVec a (star a)` and `vecMulVec (star a) a` are never positive definite. -/
theorem Matrix.not_posDef_vecMulVec_star [StarRing R] [PartialOrder R] (a : n → R) :
    ¬ (vecMulVec a (star a)).PosDef ∧ ¬ (vecMulVec (star a) a).PosDef := by
  rw [← PosDef.transpose_iff, transpose_vecMulVec, and_self]
  rintro ⟨h1, h2⟩
  obtain ⟨b, hb, H⟩ := exists_ne_zero_dotProduct_eq_zero (star a)
  simpa [vecMulVec_mulVec, H] using h2 (star b) (star_ne_zero.mpr hb)
```

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: @eric-wieser, should I commit the above? ~~If so, where would I put the first one?~~

File: Mathlib/Data/Matrix/Mul.lean [hunk 3]
```diff
@@ -242,6 +242,25 @@ theorem dotProduct_smul [SMulCommClass R α α] (x : R) (v w : m → α) :
...
+  obtain ⟨i, j, hij⟩ : ∃ i j : m, i ≠ j := nontrivial_iff.mp ‹_›
+  classical
+  use if a i = 0 then Pi.single i 1 else if a j = 0 then Pi.single j 1 else
+    fun k => if k = i then a j else if k = j then - a i else 0
+  split_ifs with h h2
+  · simp [h]
+  · simp [h2]
+  · refine ⟨Function.ne_iff.mpr ⟨i, by simp [h2]⟩, ?_⟩
+    simp [dotProduct, Finset.sum_ite, Finset.sum_eq_ite i, hij.symm, mul_comm (a i)]
+
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Mul.lean:261]: How about we add:
```lean

lemma not_injective_dotProduct_left (a : m → α) :
    ¬ Function.Injective (dotProduct a) := by
  -- Your proof here!

lemma not_injective_dotProduct_right (a : m → α) :
    ¬ Function.Injective (dotProduct · a) := by
  -- Your proof here!

```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 4]
```diff
@@ -383,6 +393,41 @@ theorem conjTranspose_mul_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
...
+
+/-- If `dotProduct a` is injective, then `vecMulVec (star a) a` is positive definite.
+
+In a nontrivial commutative ring with nontrivial index, this is never positive definite
+(see `Matrix.not_posDef_vecMulVec`). -/
+theorem _root_.Matrix.posDef_vecMulVec_star_self [StarOrderedRing R] [NoZeroDivisors R] (a : n → R)
+    (ha : Function.Injective (dotProduct a)) :
+    (vecMulVec (star a) a).PosDef := by
+  simp only [vecMulVec_eq Unit, ← conjTranspose_replicateRow]
+  exact conjTranspose_mul_self _ fun a b => by simp [← ha.eq_iff, funext_iff, mulVec]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I'm quite skeptical that we want these lemmas given that their hypothesis `ha` will basically never hold. When would we ever use them?

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 5]
```diff
@@ -383,6 +393,41 @@ theorem conjTranspose_mul_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
...
+
+/-- In a nontrivial commutative ring with nontrivial index, the matrices
+`vecMulVec a (star a)` and `vecMulVec (star a) a` are never positive definite. -/
+theorem _root_.Matrix.not_posDef_vecMulVec [Nontrivial n] [Nontrivial R'] (a : n → R') :
+    ¬ (vecMulVec a (star a)).PosDef ∧ ¬ (vecMulVec (star a) a).PosDef := by
+  rw [← PosDef.transpose_iff, transpose_vecMulVec, and_self]
+  rintro ⟨h1, h2⟩
+  obtain ⟨b, hb, H⟩ := exists_ne_zero_dotProduct_eq_zero (star a)
+  simpa [vecMulVec_mulVec, H] using h2 (star b) (star_ne_zero.mpr hb)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I'm also pretty skeptical here. Do you have an application in mind?

I could maybe see us adding a lemma stating the slightly stronger result:
```lean
theorem foo [Nontrivial n] [Nontrivial R'] (a : n → R') :
    ∃ x ≠ 0, star x ⬝ᵥ vecMulVec (star a) a *ᵥ x = 0 := by
  obtain ⟨b, hb, H⟩ := exists_ne_zero_dotProduct_eq_zero (star a)
  exact ⟨star b, star_ne_zero.mpr hb, by simp [vecMulVec_mulVec, H]⟩
```
(and I guess likewise for `vecMulVec a (star a)`

What do you think?

**Review by ocfnash — COMMENTED** [review]
Thanks for all of this.

The code is great but I'm a bit dubious about some of the statements. Maybe I can be persuaded :) I've left some comments in line!

File: Mathlib/Data/Matrix/Mul.lean (hunk 3 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Mul.lean:261]: Sure :)
```suggestion

lemma not_injective_dotProduct_left (a : m → α) :
    ¬ Function.Injective (dotProduct a) := by
  intro h
  obtain ⟨b, hb, hba⟩ := exists_ne_zero_dotProduct_eq_zero a
  simpa [dotProduct_comm a b, hba, hb] using @h b 0

lemma not_injective_dotProduct_right (a : m → α) :
    ¬ Function.Injective (dotProduct · a) := by
  intro h
  obtain ⟨b, hb, hba⟩ := exists_ne_zero_dotProduct_eq_zero a
  simpa [hba, hb] using @h b 0

```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 4 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I agree with you on this. I was skeptical about keeping them.
```suggestion
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 5 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I don't have a particular application in mind. But it could be useful to know that these are never positive definite.

But I think your lemma could also be just as useful. We could add a docstring saying something along the lines of "this means that `vecMulVec (star a) a` is never positive definite."

I think the only problem I have with this is the naming. It would be hard to find. Whereas `not_posDef_vecMulVec` is easy.

I don't mind really. Up to you, I'll add it as a suggestion here so you can choose to commit or not:

Maybe someone else can also chime in on this?

```suggestion
omit [PartialOrder R'] in
/-- Given a vector `a` in a nontrivial commutative ring with nontrivial index,
there exists a vector `x` such that `star x ⬝ᵥ vecMulVec (star a) a *ᵥ x = 0`.

In particular, this means that `vecMulVec (star a) a` is never positive definite. -/
theorem _root_.Matrix.exists_ne_zero_star_dotProduct_vecMulVec_star_self_mulVec
    [Nontrivial n] [Nontrivial R'] (a : n → R') :
    ∃ x ≠ 0, star x ⬝ᵥ vecMulVec (star a) a *ᵥ x = 0 := by
  obtain ⟨b, hb, H⟩ := exists_ne_zero_dotProduct_eq_zero (star a)
  exact ⟨star b, star_ne_zero.mpr hb, by simp [vecMulVec_mulVec, H]⟩

omit [PartialOrder R'] in
/-- Given a vector `a` in a nontrivial commutative ring with nontrivial index,
there exists a vector `x` such that `star x ⬝ᵥ vecMulVec a (star a) *ᵥ x = 0`.

In particular, this means that `vecMulVec a (star a)` is never positive definite. -/
theorem _root_.Matrix.exists_ne_zero_star_dotProduct_vecMulVec_self_star_mulVec
    [Nontrivial n] [Nontrivial R'] (a : n → R') :
    ∃ x ≠ 0, star x ⬝ᵥ vecMulVec a (star a) *ᵥ x = 0 := by
  obtain ⟨b, hb, H⟩ := exists_ne_zero_dotProduct_eq_zero a
  exact ⟨star b, star_ne_zero.mpr hb, by simp [vecMulVec_mulVec, H]⟩
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I think the best thing is just to drop `Matrix.not_posDef_vecMulVec` and not add `Matrix.exists_ne_zero_star_dotProduct_vecMulVec_star_self_mulVec`, `Matrix.exists_ne_zero_star_dotProduct_vecMulVec_self_star_mulVec`.

The real result here has nothing to do with ordering but just the existence of a null vector (which doesn't need ordered scalars) so I think framing as "failure of positivity definiteness" isn't quite right. And then I think we'd be better off just proving general results about when a matrix `A` has a null vector (i.e., `x ≠ 0` with `star x ⬝ᵥ A *ᵥ x = 0`) than specialised results for the case `A = vecMulVec a (star a)`.

**Review by ocfnash — APPROVED** [review]
Thanks for this!

Please drop the lemma `Matrix.not_posDef_vecMulVec` and then feel free to merge.

bors d+
